US05378689
3-[2(R)-Benzyl-3-(benzyloxycarbonyl)propionyl]-4(S)-isopropyl-2-oxazolidinone
22.50 ml (36.0 mmole) of butyllithium (as a 1.6M solution in hexane) were added dropwise, at -78° C. and under an atmosphere of nitrogen, to a solution of 5.05 ml (36.0 mmole) of diisopropylamine in 100 ml of anhydrous tetrahydrofuran, and the mixture was stirred for 30 minutes. At the end of this time, a solution of 7.84 g (30.0 mmole) of 4(S)-isopropyl-3-(3-phenyl-1-oxopropyl)-2-oxazolidinone (prepared as described in Preparation 12) in 50 ml of anhydrous tetrahydrofuran was added dropwise to the mixture. The mixture was then stirred for 1 hour, after which 14.26 ml (90.0 mmole) of benzyl bromoacetate were added to it. The mixture was stirred for 6 hours while the temperature of the reaction mixture was permitted to revert to room temperature. At the end of this time, the reaction mixture was mixed with a saturated aqueous solution of ammonium chloride and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was stripped from it by distillation under reduced pressure. The residue was purified by medium pressure column chromatography through silica gel (using a 1:3 by volume mixture of ethyl acetate and hexane as the eluent), followed by recrystallization from diisopropyl ether, to afford 9.05 g (yield 74%) of the title compound as white crystals, melting at 118°-120° C.

reactant | butyllithium | 36.0 mmole, 22.50 ml | C(CCC)[Li]
reactant | diisopropylamine | 36.0 mmole, 5.05 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4(S)-isopropyl-3-(3-phenyl-1-oxopropyl)-2-oxazolidinone | 30.0 mmole, 7.84 g | C(C)(C)[C@@H]1N(C(OC1)=O)C(CCC1=CC=CC=C1)=O | C15H19NO3
reactant | benzyl bromoacetate | 90.0 mmole, 14.26 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[2(R)-Benzyl-3-(benzyloxycarbonyl)propionyl]-4(S)-isopropyl-2-oxazolidinone | 9.05 g, yield 74% | C(C1=CC=CC=C1)[C@@H](C(=O)N1C(OC[C@@H]1C(C)C)=O)CC(=O)OCC1=CC=CC=C1 | C24H27NO5
